US04816474
A mixture of 2.5 g of N,N-dipropyl-5,6-dihydro-4H-thieno[2,3-b]-thiopyran-5-amine in 40 ml of tetrahydrofuran is treated with 4 ml of 2.5 M n-butyl lithium in hexane at 0°. After 30 minutes at 0°, 1.5 g of methyl iodide is added and the mixture is kept at room temperature for 1 hour. Dilution with ether and washing with water followed by drying and removal of the solvent in vacuo affords 2-methyl-N,N-dipropyl-5,6-dihydro-4H-thieno[2,3-b]-thiopyran-5-amine.

reactant | N,N-dipropyl-5,6-dihydro-4H-thieno[2,3-b]-thiopyran-5-amine | 2.5 g | C(CC)N(C1CC2=C(SC1)SC=C2)CCC | C13H21NS2
reactant | n-butyl lithium | 2.5 M, 4 ml | C(CCC)[Li]
reactant | methyl iodide | 1.5 g | CI | CH3I
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-methyl-N,N-dipropyl-5,6-dihydro-4H-thieno[2,3-b]-thiopyran-5-amine | CC1=CC2=C(SCC(C2)N(CCC)CCC)S1 | C14H23NS2
